SUPEROPAMP (PSpice format)
**************************************
**  This file was created by TINA   **
**         www.tina.com             ** 
**      (c) DesignSoft, Inc.        **          
**     www.designsoftware.com       **
**************************************
.LIB "E:\TINA\EXAMPLES\SPICE\TSPICE.LIB"
.LIB "E:\TINA\SPICELIB\Operational Amplifiers.LIB"
.LIB
.TEMP 27
.AC DEC 20 10 1MEG
.TRAN 2N 1U

.OPTIONS ABSTOL=1P ITL1=150 ITL2=20 ITL4=10 TRTOL=7 
.PROBE V([in]) V([out])

V3          cc 0 20
V2          0 dd 20
V1          in 0 5
R10         5 6 750 
R9          6 0 10K 
R8          7 8 750 
R7          8 out 10K 
XOP5         6 8 cc dd out StdOpamp
+ PARAMS: GAIN=200K RIN=10T ROUT=75 SLEWRATE=13MEG FPOLE1=15 FPOLE2=9.45MEG VOFFS=3M IBIAS=30P IOFFS=5P VDROPOH=1.5 VDROPOL=1.5
R6          9 10 500 
R5          5 10 49.5K 
R4          7 9 49.5K 
XOP4         11 10 cc dd 5 StdOpamp
+ PARAMS: GAIN=200K RIN=10T ROUT=75 SLEWRATE=13MEG FPOLE1=15 FPOLE2=9.45MEG VOFFS=3M IBIAS=30P IOFFS=5P VDROPOH=1.5 VDROPOL=1.5
XOP3         12 9 cc dd 7 StdOpamp
+ PARAMS: GAIN=200K RIN=10T ROUT=75 SLEWRATE=13MEG FPOLE1=15 FPOLE2=9.45MEG VOFFS=3M IBIAS=30P IOFFS=5P VDROPOH=1.5 VDROPOL=1.5
R3          13 14 500 
R2          11 14 49.5K 
R1          12 13 49.5K 
XOP2         in 14 cc dd 11 StdOpamp
+ PARAMS: GAIN=200K RIN=10T ROUT=75 SLEWRATE=13MEG FPOLE1=15 FPOLE2=9.45MEG VOFFS=3M IBIAS=30P IOFFS=5P VDROPOH=1.5 VDROPOL=1.5
XOP1         0 13 cc dd 12 StdOpamp
+ PARAMS: GAIN=200K RIN=10T ROUT=75 SLEWRATE=13MEG FPOLE1=15 FPOLE2=9.45MEG VOFFS=3M IBIAS=30P IOFFS=5P VDROPOH=1.5 VDROPOL=1.5


.END
